US05863949
To a solution of iminoacetic acid disodium salt monohydrate (5.0 grams, 25.6 mmol) in dioxane (50 ml) and water (50 ml) was added triethylamine (5.3 ml, 38 mmol) followed by 4-methoxybenzenesulfonyl chloride (5.8 grams, 28.0 mmol). The mixture was stirred overnight at room temperature and diluted with methylene chloride. The solution was washed with 1N hydrochloric acid solution, water and brine, dried over magnesium sulfate and concentrated under vacuum leaving [carboxymethyl(4-methoxybenzenesulfonyl)amino]acetic acid as a white solid, 3.83 grams (49%).

reactant | iminoacetic acid disodium salt monohydrate | 25.6 mmol, 5.0 grams | O.[Na+].[Na+].N=CC(=O)[O-].N=CC(=O)[O-]
reactant | triethylamine | 38 mmol, 5.3 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 28.0 mmol, 5.8 grams | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [carboxymethyl(4-methoxybenzenesulfonyl)amino]acetic acid | C(=O)(O)CN(S(=O)(=O)C1=CC=C(C=C1)OC)CC(=O)O | C11H13NO7S
